US06930106B2
Tert-butyl 4-{[2-amino-4-(trifluoromethyl)phenyl]amino}benzylcarbamate (216 mg, 0.56 mmol), and 4,5-dichlorophthalic anhydride (110 mg, 0.51 mmol) are added to a 7 ml vial. After diluting with chloroform (4 mL), the reaction vial is placed on an orbit shaker at 40° C. After 18 hr, the reaction mixture is concentrated. Recrystallization gives 2-({[2-[(4-{[(tert-butoxycarbonyl)amino]methyl}phenyl)amino]-5-(trifluoromethyl)phenyl]amino}carbonyl)-4,5-dichlorobenzoic acid, which is dissolved in ethyl acetate (10 mL). After cooling to 0° C., ethyl acetate saturated with HCl (10 mL) is added. After 2 hr the reaction mixture is concentrated and purified by recrystallization to give 2-({[2-{[4-(aminomethyl)phenyl]amino}-5-(trifluoromethyl)phenyl]amino}carbonyl)-4,5-dichlorobenzoic acid hydrochloride. The yield is 92 mg (34%). 1H NMR (400 MHz, DMSO-d6) 13.91 (s, 1H), 10.24 (s, 1H), 8.25 (s, 3H), 8.09 (s, 1H), 8.02 (s, 1H), 7.95, (s, 1H), 7.83 (m, 1H), 7.49 (m, 1 H), 7.43 (d, 2H), 7.36 (m, 1H), 7.21 (d, 2H), 3.97 (m, 2H); HRMS for C22H16Cl2F3N3O3 498.0584 (M+H)+.

reactant | Tert-butyl 4-{[2-amino-4-(trifluoromethyl)phenyl]amino}benzylcarbamate | 0.56 mmol, 216 mg | NC1=C(C=CC(=C1)C(F)(F)F)NC1=CC=C(CNC(OC(C)(C)C)=O)C=C1 | C19H22F3N3O2
reactant | 4,5-dichlorophthalic anhydride | 0.51 mmol, 110 mg | ClC=1C=C2C(C(=O)OC2=O)=CC1Cl | C8H2Cl2O3
solvent | chloroform | 4 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-({[2-[(4-{[(tert-butoxycarbonyl)amino]methyl}phenyl)amino]-5-(trifluoromethyl)phenyl]amino}carbonyl)-4,5-dichlorobenzoic acid | C(C)(C)(C)OC(=O)NCC1=CC=C(C=C1)NC1=C(C=C(C=C1)C(F)(F)F)NC(=O)C1=C(C(=O)O)C=C(C(=C1)Cl)Cl | C27H24Cl2F3N3O5
